US06620811B2
2-Chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
To a solution of 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine (2.3 g, 8.7 mmol) in tetrahydrofurane (80 ml) is added N-ethyldiisopropylamine (6.0 ml, 35 mmol) and the solution cooled to 0° C. 2-chloromethyl-isonicotinoyl chloride (2.4 g, 10.5 mmol), dissolved in tetrahydrofurane (50 ml), is added over 15 minutes and the mixture heated to 70° C. for 1 h. After evaporation of the volatile components, the residue was disolved in ethyl acetate and water, filtered and the residue combined with the dryed and evaporated organic phase. Recrystallization from dichloromethane/ethyl acetate afforded the title compound as light brown solid (2.9 g, 81% yield). MS: m/e=420(M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | 8.7 mmol, 2.3 g | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | N-ethyldiisopropylamine | 35 mmol, 6.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-chloromethyl-isonicotinoyl chloride | 10.5 mmol, 2.4 g | ClCC=1C=C(C(=O)Cl)C=CN1 | C7H5Cl2NO
solvent | tetrahydrofurane | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | 2-Chloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 2.9 g, 81% yield | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H19ClN4O3S
